US05294612
To a solution of 1-(2-methylcyclopentyl)-3-methyl-5-amino-1H-pyrazole-4-carboxamide (2.3 g, 10.4 mmol) in xylenes (8.0 ml) under argon was added 4-pyridinecarboxaldehyde (1.5 ml, 15.5 mmol). The reaction mixture was warmed to 120° C. and stirred for 1 hour at which time the mixture became homogeneous. The reaction mixture was then heated to 160° C. for 24 hours and then cooled to room temperature. A solid precipitated which was collected by filtration through a glass frit. The solid was washed with ether, saturated NaHCO3 then water and was recrystallized from DMF. The solid was collected on a glass frit and was washed with methanol, then ether and dried at 110° C. for 72 hours in high vacuum to afford 1.05 g (33%) of 1-(2-methylcyclopentyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one as white crystals m.p. 290°-291° C.

reactant | 1-(2-methylcyclopentyl)-3-methyl-5-amino-1H-pyrazole-4-carboxamide | 10.4 mmol, 2.3 g | CC1C(CCC1)N1N=C(C(=C1N)C(=O)N)C | C11H18N4O
reactant | 4-pyridinecarboxaldehyde | 15.5 mmol, 1.5 ml | N1=CC=C(C=C1)C=O | C6H5NO
product | 1-(2-methylcyclopentyl)-3-methyl-6-(4-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one | 1.05 g, 33% | CC1C(CCC1)N1NC(=C2C1=NC(=NC2=O)C2=CC=NC=C2)C | C17H19N5O
